US05292760
4,5-Dihydro-2-ethyl-3-methyl-4-(2-methyl-3-thienyl)-3H-1,3-benzodiazepine
A solution of 3.95 g of 2-amino-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine, 5 ml of glacial acetic acid and 17.0 g of triethylorthopropionate was refluxed for 8 hours (under a nitrogen atmosphere). The solution was concentrated in vacuo at 80° C. and the residual oil dissolved in diethyl ether (50 ml) and acidified with 10% hydrochloric acid solution. The aqueous phase was washed with diethyl ether (50 ml), basified, and extracted with dichloromethane (2×100 ml). The combined organic phase was dried over anhydrous sodium sulfate, filtered and concentrated. The resultant oil was purified by preparative HPLC (Water's Associates Prep LC/System 500, silica gel, elution with methanol followed by 2% triethylamine in methanol). Concentration of the appropriate fractions afforded 2.26 g of 4,5-dihydro-2-ethyl-3-methyl-4-(2-methyl-3-thienyl)-3H-1,3-benzediazepine as an oil. Trituration with hexane afforded a solid which was combined with product obtained from previous run to afford the analytical sample, mp 82°-83.5° C.

reactant | 2-amino-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine | 3.95 g | NC1=C(C=CC=C1)CC(NC)C1=C(SC=C1)C | C14H18N2S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | triethylorthopropionate | 17.0 g | C(C)OC(CC)(OCC)OCC | C9H20O3
solvent | hexane | CCCCCC | C6H14
product | 4,5-Dihydro-2-ethyl-3-methyl-4-(2-methyl-3-thienyl)-3H-1,3-benzodiazepine | C(C)C1=NC2=C(CC(N1C)C1=C(SC=C1)C)C=CC=C2 | C17H20N2S
